US06069156
To a solution of methyl 3-isobutyrylindole-6-carboxylate (146 mg) in tetrahydrofuran (5 ml) was added 1M solution of brane-tetrahydrofuran complex in tetrahydrofuran (1.8 ml), and the mixture was stirred at 50° C. for 1 hour. The resulting mixture was evaporated in vacuo, and the residue was quenched with aqueous ammonium chloride and extracted with ethyl acetate. The organic phase was washed with brine, and dried over sodium sulfate. After evaporation of solvent, the residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (2:1) to give methyl 3-isobutylindole-6-carboxylate (105 mg) as colorless crystals.

reactant | methyl 3-isobutyrylindole-6-carboxylate | 146 mg | C(C(C)C)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C14H15NO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.8 ml | O1CCCC1 | C4H8O
product | methyl 3-isobutylindole-6-carboxylate | 105 mg | C(C(C)C)C1=CNC2=CC(=CC=C12)C(=O)OC | C14H17NO2
